US09212187B2
1-Ethyl-3,3,5-trimethyl-7-[4-(2-oxo-3,4-dihydro-2H-quinolin-1-yl)piperidin-1-ylmethyl]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbaldehyde(0.203 g) and acetic acid(0.063 ml) were added to a 1,2-dichloroethane solution (5 ml) of 1-(piperidin-4-yl)-3,4-dihydroquinolin-2(1H)-one (0.170 g), and the mixture was stirred at room temperature for 30 minutes. Sodium triacetoxyborohydride(0.235 g) was added, and the mixture was stirred at room temperature overnight. The reaction mixture was condensed under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=100:0→90:10). The purified product was condensed to dryness to give the title compound(0.205 g) as pale yellow amorphous.

reactant | 1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbaldehyde | 0.203 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)C=O | C15H18N2O3
reactant | acetic acid | 0.063 ml | C(C)(=O)O | C2H4O2
reactant | 1-(piperidin-4-yl)-3,4-dihydroquinolin-2(1H)-one | 0.170 g | N1CCC(CC1)N1C(CCC2=CC=CC=C12)=O | C14H18N2O
reactant | Sodium triacetoxyborohydride | 0.235 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | 1-Ethyl-3,3,5-trimethyl-7-[4-(2-oxo-3,4-dihydro-2H-quinolin-1-yl)piperidin-1-ylmethyl]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.205 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN2CCC(CC2)N2C(CCC1=CC=CC=C21)=O | C29H36N4O3
